US06894050B2
Preparation of the Intermediate 3′-Amino-6′bromo-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester (I-3r)
2-Amino-3,5-dibromopyrazine (1.26 g, 5.0 mmol) and piperazine-1-carboxylic acid tert-butyl ester (4.64 g, 25 mmol) were placed in a dry RBF and heated with stirring to 120° C. under dry nitrogen. Molten mixture was stirred at this temperature for 6 h and cooled to room temperature. The resulting slurry was diluted with EtOAc (20 mL) and stirred for 20 min. Amine salts were removed by filtration and washed with EtOAc (3×5 mL). Filtrate was washed with pH 4 buffer (35 mL) and brine (35 mL), dried over Na2SO4 (anhydrous), filtered, and concentrated in vacuo. The residue was purified by flash chromatography (hexanes/EtOAc 7:3) gives the title compound I-3r as an off white solid (1.64 g, 92% yield).

reactant | 2-Amino-3,5-dibromopyrazine | 5.0 mmol, 1.26 g | NC1=NC=C(N=C1Br)Br | C4H3Br2N3
reactant | piperazine-1-carboxylic acid tert-butyl ester | 25 mmol, 4.64 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 3′-Amino-6′bromo-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=CN=C1N)Br | C13H20BrN5O2
